US06822097B1
7-{[(2-Dimethylamino-ethyl)-ethyl-amino]-methyl}-3-(2-pyridin-4-yl-thiazol-4-yl)-1H-quinolin-2-one
This compound was prepared according to the method described in example 8768 employing 3-(2-pyridin-4-yl-thiazol-4-yl)-1H-quinolin-2-one-7-carbaldehyde and N′-ethyl-N,N-dimethyl-ethane-1,2-diamine to give a yellow solid. MS m/z: 434.2 (M+1).

reactant | 3-(2-pyridin-4-yl-thiazol-4-yl)-1H-quinolin-2-one-7-carbaldehyde | N1=CC=C(C=C1)C=1SC=C(N1)C=1C(NC2=CC(=CC=C2C1)C=O)=O | C18H11N3O2S
reactant | N′-ethyl-N,N-dimethyl-ethane-1,2-diamine | C(C)NCCN(C)C | C6H16N2
product | 7-{[(2-Dimethylamino-ethyl)-ethyl-amino]-methyl}-3-(2-pyridin-4-yl-thiazol-4-yl)-1H-quinolin-2-one | CN(CCN(CC)CC1=CC=C2C=C(C(NC2=C1)=O)C=1N=C(SC1)C1=CC=NC=C1)C | C24H27N5OS
